### PR TITLE
[Merged by Bors] - feat: port Algebra.Hom.Group

### PR DESCRIPTION
**Pull request by winstonyin**
mathlib3 SHA: 8c53048add6ffacdda0b36c4917bfe37e209b0ba

- [x] depends on #563
- [x] depends on https://github.com/leanprover-community/mathlib/pull/17733
- [x] depends on https://github.com/leanprover/lean4/pull/1901
- [x] depends on https://github.com/leanprover/lean4/pull/1907

### CODE REVIEW

File: Mathlib/Algebra/Hom/Group.lean [hunk 1]
```diff
@@ -0,0 +1,1692 @@
...
+/-- Additive group homomorphisms preserve integer scaling. -/
+theorem map_zsmul [AddGroup G] [SubtractionMonoid H] [AddMonoidHomClass F G H] (f : F) (n : ℤ) (g : G) :
+    f (n • g) = n • f g :=
+  MapZsmul.aux f g n
+#align map_zsmul map_zsmul
+
+attribute [to_additive_reorder 8, to_additive] map_zpow
+
+end mul_one
+
```
Comment (semorrison) [inline Mathlib/Algebra/Hom/Group.lean:434]: Is this all commented out because you hadn't got to it? Better to leave it uncommented, please. You can leave a note if you need a "bookmark".

Comment (winstonyin) [reply Mathlib/Algebra/Hom/Group.lean:434]: Yes I comment the lines out to avoid constant compiling, but I can uncomment them before commits.

File: Mathlib/Algebra/Hom/Group.lean [hunk 2]
```diff
@@ -0,0 +1,1712 @@
...
+-- variable (M) [MulOneClass M]
+
+-- /-- The monoid of endomorphisms. -/
+-- protected def End := M →* M
+-- #align monoid.End Monoid.End
+
+-- namespace End
+
+-- instance : Monoid (Monoid.End M) where
```
Comment (winstonyin) [inline Mathlib/Algebra/Hom/Group.lean:1198]: This instance causes the error
```
(deterministic) timeout at 'whnf', maximum number of heartbeats (200000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
```
in `AddMonoid.coe_mul`, `MonoidHom.mul_comp`, and `MonoidHom.comp_mul` later.

File: Mathlib/Algebra/Hom/Group.lean [hunk 3]
```diff
@@ -0,0 +1,1739 @@
...
+  map_mul' x y := by simp
+#align mul_hom.comp MulHom.comp
+
+-- Porting note: restore `by simp`
+/-- Composition of monoid morphisms as a monoid morphism. -/
+@[to_additive]
+def MonoidHom.comp [MulOneClass M] [MulOneClass N] [MulOneClass P] (hnp : N →* P) (hmn : M →* N) :
+  M →* P where
+  toFun := hnp ∘ hmn
+  map_one' := by rw [Function.comp_apply, map_one, map_one]
```
Comment (winstonyin) [inline Mathlib/Algebra/Hom/Group.lean:981]: `map_one` is not being used by `simp` for some reason. See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20not.20using.20a.20simp.20lemma/near/311227341

File: Mathlib/Algebra/Hom/Group.lean [hunk 4]
```diff
@@ -0,0 +1,1739 @@
...
+#align monoid_hom.comp MonoidHom.comp
+
+-- Porting note: something strange in `map_one'`, where the goal is `↑1 = 1` via
+-- `MulZeroOneClass.toZero`
+/-- Composition of `MonoidWithZeroHom`s as a `MonoidWithZeroHom`. -/
+def MonoidWithZeroHom.comp [MulZeroOneClass M] [MulZeroOneClass N] [MulZeroOneClass P]
+  (hnp : N →*₀ P) (hmn : M →*₀ N) : M →*₀ P where
+  toFun := hnp ∘ hmn
+  map_zero' := by rw [Function.comp_apply, map_zero, map_zero]
+  map_one' := by dsimp only []; rw [Function.comp_apply, map_one, map_one]
```
Comment (winstonyin) [inline Mathlib/Algebra/Hom/Group.lean:992]: The goal presented in `map_one'` is the cryptic `↑1 = 1`. This problem is in addition to the `map_one`/`simp` problem above.

**Comment by semorrison** [comment]
@winstonyin, I've merged master, which included several fixes for `to_additive`. Could you check the to_additive porting notes and see if things work better now?

**Comment by semorrison** [comment]
Oh, my mistake, I thought #678 was merged already. Maybe to_additive hasn't actually improved much yet.

File: Mathlib/Algebra/Hom/Group.lean [hunk 5]
```diff
@@ -0,0 +1,1698 @@
...
+  map_zero' : toFun 0 = 0
+#align zero_hom ZeroHom
+#align zero_hom.map_zero' ZeroHom.map_zero'
+
+/-- `ZeroHomClass F M N` states that `F` is a type of zero-preserving homomorphisms.
+
+You should extend this typeclass when you extend `ZeroHom`.
+-/
+-- Porting note: `outParam` is added to instances `[Zero M] [Zero N]` until issue
+-- https://github.com/leanprover/lean4/issues/1852 is resolved
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group.lean:105]: This should already work, but removing the `outParam` requires a bunch of type annotations below.

File: Mathlib/Algebra/Hom/Group.lean [hunk 6]
```diff
@@ -0,0 +1,1698 @@
...
+  (f : F) (a : G) : f a⁻¹ = (f a)⁻¹ :=
+  eq_inv_of_mul_eq_one_left <| map_mul_eq_one f <| inv_mul_self _
+#align map_inv map_inv
+
+-- Porting note: redundant `simp` lemma
+-- /-- Group homomorphisms preserve division. -/
+-- @[simp, to_additive "Additive group homomorphisms preserve subtraction."]
+-- theorem map_mul_inv [Group G] [DivisionMonoid H] [MonoidHomClass F G H] (f : F) (a b : G) :
+--   f (a * b⁻¹) = f a * (f b)⁻¹ := by rw [map_mul, map_inv]
+-- #align map_mul_inv map_mul_inv
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group.lean:402]:
```suggestion
#noalign map_mul_inv
```

File: Mathlib/Algebra/Hom/Group.lean [hunk 7]
```diff
@@ -0,0 +1,1698 @@
...
+  (MonoidHom.mk f hmul : M → N) = f := rfl
+#align monoid_hom.coe_mk MonoidHom.coe_mk
+
+@[simp]
+theorem MonoidWithZeroHom.coe_mk [MulZeroOneClass M] [MulZeroOneClass N] (f h1 hmul) :
+  (MonoidWithZeroHom.mk f h1 hmul : M → N) = (f : M → N) := rfl
+#align monoid_with_zero_hom.coe_mk MonoidWithZeroHom.coe_mk
+
+@[simp, to_additive]
+theorem MonoidHom.to_oneHom_coe [MulOneClass M] [MulOneClass N] (f : M →* N) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group.lean:594]: Should this (and several more below) be `toOneHom_coe`?

File: Mathlib/Algebra/Hom/Group.lean [hunk 8]
```diff
@@ -0,0 +1,1698 @@
...
+theorem MonoidWithZeroHom.cancel_left [MulZeroOneClass M] [MulZeroOneClass N] [MulZeroOneClass P]
+  {g : N →*₀ P} {f₁ f₂ : M →*₀ N} (hg : Function.Injective g) :
+  g.comp f₁ = g.comp f₂ ↔ f₁ = f₂ :=
+  ⟨fun h =>
+    MonoidWithZeroHom.ext fun x => hg <| by rw [← MonoidWithZeroHom.comp_apply, h,
+    MonoidWithZeroHom.comp_apply], fun h => h ▸ rfl⟩
+#align monoid_with_zero_hom.cancel_left MonoidWithZeroHom.cancel_left
+
+@[to_additive]
+theorem MonoidHom.to_oneHom_injective [MulOneClass M] [MulOneClass N] :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group.lean:1082]: This is about `toOneHom` as well

File: Mathlib/Algebra/Hom/Group.lean [hunk 9]
```diff
@@ -0,0 +1,1698 @@
...
+export CoeIsZeroHom (coe_zero)
+
+attribute [simp] coe_zero -- Porting note: restore `norm_cast`
+
+/-- `CoeIsOneHom M N` is a class stating that the coercion map `↑ : M → N` (a.k.a. `coe`)
+is a one-preserving homomorphism.
+-/
+@[to_additive]
+class CoeIsOneHom [One M] [One N] : Prop where
+  /-- The proposition that the coecion preserves 1 -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Group.lean:1574]:
```suggestion
  /-- The proposition that the coercion preserves 1 -/
```

(throughout)

File: Mathlib/Algebra/Hom/Group.lean (hunk 5 above)
Comment (winstonyin) [reply Mathlib/Algebra/Hom/Group.lean:105]: Removing the `outParam` here causes a bunch of `rw` to fail later on. For example in `of_injective`, `ZeroHomClass.map_zero f` has to be replaced by `@ZeroHomClass.map_zero F R M _ _ _ f`. Seems that the functionality is not totally working yet.

File: Mathlib/Algebra/Hom/Group.lean [hunk 10]
```diff
@@ -0,0 +1,1694 @@
...
+with zero morphism sending `x` to `f x * g x`. -/
+instance {M N} {_ : MulZeroOneClass M} [CommMonoidWithZero N] : Mul (M →*₀ N) :=
+  ⟨fun f g => { (f * g : M →* N) with
+    toFun := fun a => f a * g a,
+    map_zero' := by dsimp only []; rw [map_zero, zero_mul] }⟩
+    -- Porting note: why do we need `dsimp` here?
+
+section coe
+
+/-! ### Coercions as bundled morphisms
```
Comment (winstonyin) [inline Mathlib/Algebra/Hom/Group.lean:1538]: These classes and theorems may be be wrong approach in Lean4 due to eager elaboration of coercions. I'm not confident enough to refactor / remove this section.
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Coe.2C.20CoeHead.2C.20CoeTail/near/312411053

Comment (semorrison) [reply Mathlib/Algebra/Hom/Group.lean:1538]: We're attempting the revert now. I guess this PR will have to wait for that.

Comment (semorrison) [reply Mathlib/Algebra/Hom/Group.lean:1549]: The revert is now in. Let's revise this PR to match mathlib3 again.

Comment (semorrison) [reply Mathlib/Algebra/Hom/Group.lean]: @winstonyin, this can be resolved now, right?

File: Mathlib/Algebra/Hom/Group.lean [hunk 11]
```diff
@@ -0,0 +1,1533 @@
...
+-- Porting note: redundant `simp` lemma
+#noalign map_mul_inv
+
+/-- Group homomorphisms preserve division. -/
+@[simp, to_additive "Additive group homomorphisms preserve subtraction."]
+theorem map_div [Group G] [DivisionMonoid H] [MonoidHomClass F G H] (f : F) :
+  ∀ a b, f (a / b) = f a / f b := map_div' _ <| map_inv f
+#align map_div map_div
+
+-- Porting note: restore `to_additive`
```
Comment (semorrison) [inline Mathlib/Algebra/Hom/Group.lean:406]: I think this can be restored now.

File: Mathlib/Algebra/Hom/Group.lean [hunk 12]
```diff
@@ -0,0 +1,1533 @@
...
+
+/-- Group homomorphisms preserve inverse. -/
+@[simp, to_additive "Additive group homomorphisms preserve negation."]
+theorem map_inv [Group G] [DivisionMonoid H] [MonoidHomClass F G H]
+  (f : F) (a : G) : f a⁻¹ = (f a)⁻¹ :=
+  eq_inv_of_mul_eq_one_left <| map_mul_eq_one f <| inv_mul_self _
+#align map_inv map_inv
+
+-- Porting note: redundant `simp` lemma
+#noalign map_mul_inv
```
Comment (semorrison) [inline Mathlib/Algebra/Hom/Group.lean:399]: I don't understand how this could be redundant? It probably needs to have `simp` removed, but the lemma needs to be there.

File: Mathlib/Algebra/Hom/Group.lean [hunk 13]
```diff
@@ -0,0 +1,1533 @@
...
+
+When you extend this structure, make sure to also extend `OneHomClass`.
+-/
+@[to_additive]
+structure OneHom (M : Type _) (N : Type _) [One M] [One N] where
+  /-- The underlying function -/
+  toFun : M → N
+  /-- The proposition that the function preserves 1 -/
+  map_one' : toFun 1 = 1
+#align one_hom OneHom
```
[the remark this answers is not in the document]
Comment (winstonyin) [reply Mathlib/Algebra/Hom/Group.lean:203]: Thanks for answering something I've been wondering (if mathport does this automatically). Will add them

File: Mathlib/Algebra/Hom/Group.lean [hunk 14]
```diff
@@ -0,0 +1,1628 @@
...
+/-- `M →ₙ* N` denotes the type of multiplication-preserving maps from `M` to `N`. -/
+infixr:25 " →ₙ* " => MulHom
+
+/-- `MulHomClass F M N` states that `F` is a type of multiplication-preserving homomorphisms.
+
+You should declare an instance of this typeclass when you extend `MulHom`.
+-/
+-- Porting note: see porting note of `ZeroHomClass`
+@[to_additive]
+class MulHomClass (F : Type _) (M N : outParam (Type _)) [outParam (Mul M)] [outParam (Mul N)]
```
Comment (joneugster) [inline Mathlib/Algebra/Hom/Group.lean:288]:
```suggestion
class MulHomClass (F : Type _) (M N : Type _) [outParam <| Mul M] [outParam <| Mul N]
```
See [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/typeclass.20timeout).

I am by far no expert, maybe @semorrison understands things better.

The following fails because it tries to synth `MulHomClass (M ≃* N) N (? →ₙ* ?)` first when `M N` are marked as `outParam`. This leads to a timeout as `Pi.instMul` applies to virtually every Pi-type so it expands `(? →ₙ* ?)` even further.
```
import Mathlib.Algebra.Hom.Group
import Mathlib.Logic.Equiv.Basic
import Mathlib.Data.Pi.Algebra

structure MulEquiv (M N : Type _) [Mul M] [Mul N] extends M ≃ N, M →ₙ* N

infixl:25 " ≃* " => MulEquiv

class MulEquivClass (F A B : Type _) [outParam <| Mul A] [outParam <| Mul B] extends EquivLike F A B where
  map_mul : ∀ (f : F) (a b), f (a * b) = f a * f b

instance (priority := 100) [Mul M] [Mul N] [h : MulEquivClass F M N] : MulHomClass F M N :=
  { h with coe := h.coe, coe_injective' := FunLike.coe_injective' }

instance [Mul M] [Mul N] : MulEquivClass (M ≃* N) M N where
  coe f := f.toFun
  inv f := f.invFun
  left_inv f := f.left_inv
  right_inv f := f.right_inv
  coe_injective' f g h₁ h₂ := by
    cases f
    cases g
    congr
    apply Equiv.coe_fn_injective h₁
  map_mul := MulEquiv.map_mul'

variable [Mul M] [Mul N]
#synth MulHomClass (M ≃* N) M N -- this fails
```

Comment (winstonyin) [reply Mathlib/Algebra/Hom/Group.lean:288]: `(M N : outParam (Type _))` is from mathlib3. From here, `outParam` in `Mul A` and `Mul B` was added because Lean4 couldn't automatically treat instances that depend on `outParam`s as `outParam`. The latter was resolved in issue#1852, but the behaviour of `outParam` still does not mirror Lean3.

File: Mathlib/Algebra/Hom/Group.lean [hunk 15]
```diff
@@ -0,0 +1,1622 @@
...
+-- Porting note: restore `to_additive`
+@[simp, to_additive]
+theorem map_pow [Monoid G] [Monoid H] [MonoidHomClass F G H] (f : F) (a : G) :
+  ∀ n : ℕ, f (a ^ n) = f a ^ n
+  | 0 => by rw [pow_zero, pow_zero, map_one]
+  | n + 1 => by rw [pow_succ, pow_succ, map_mul, map_pow f a n]
+#align map_pow map_pow
+#align map_smul map_smul
+
+attribute [to_additive_reorder 8] map_pow
```
Comment (fpvandoorn) [inline Mathlib/Algebra/Hom/Group.lean:428]: This is causing issues in the next declaration. 
This attribute should only be added if you manually make a `map_smul` lemma that has an argument order that differs from `map_pow`.

I'll try to add a feature of `to_additive` that will do the reordering of arguments itself when tagged with `[to_additive_reorder 8, to_additive]`

**Comment by semorrison** [comment]
I wonder if the typeclass timeouts are related to https://github.com/leanprover/lean4/issues/1891, which will be fixed tomorrow.

**Comment by semorrison** [comment]
It looks like this PR is going to need to wait on https://github.com/leanprover/lean4/pull/1901.

**Comment by semorrison** [comment]
That's fixed, but now blocked by https://github.com/leanprover/lean4/issues/1907.

**Comment by semorrison** [comment]
I think I've now killed off all the porting notes (baring one about to_additive).

This PR uses a forked version of Lean 4 until nightly-2022-12-03 is available. It will be broken until aesop gets updated in https://github.com/JLimperg/aesop/pull/32.

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors merge
